* /home/ash98/downloads/esim-1.1.3/src/subcircuitlibrary/74ls175/74ls175.cir

.include Ideal_npn1.lib
* u3  net-_u3-pad1_ net-_u2-pad2_ ? net-_u1-pad2_ net-_u3-pad5_ net-_u3-pad6_ d_dff
* u4  net-_u4-pad1_ net-_u2-pad2_ ? net-_u1-pad2_ net-_u4-pad5_ net-_u4-pad6_ d_dff
* u6  net-_u6-pad1_ net-_u2-pad2_ ? net-_u1-pad2_ net-_u5-pad3_ net-_u5-pad4_ d_dff
* u8  net-_u7-pad7_ net-_u2-pad2_ ? net-_u1-pad2_ net-_u5-pad1_ net-_u5-pad2_ d_dff
* u1  net-_u1-pad1_ net-_u1-pad2_ d_buffer
* u2  net-_u2-pad1_ net-_u2-pad2_ d_inverter
* u7  net-_u7-pad1_ net-_u7-pad2_ net-_u7-pad3_ net-_u7-pad4_ net-_u7-pad5_ net-_u7-pad6_ net-_u7-pad7_ net-_u6-pad1_ net-_u4-pad1_ net-_u3-pad1_ net-_u2-pad1_ net-_u1-pad1_ adc_bridge_6
* u5  net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u3-pad5_ net-_u3-pad6_ net-_r15-pad1_ net-_r13-pad1_ net-_r11-pad1_ net-_r9-pad1_ net-_r7-pad1_ net-_r5-pad1_ net-_r3-pad1_ net-_r1-pad1_ dac_bridge_8
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Ideal_npn2
r1  net-_r1-pad1_ net-_q1-pad2_ 1k
r2  net-_r10-pad1_ net-_q1-pad1_ 100
* u9  net-_u7-pad6_ net-_q7-pad1_ net-_q8-pad1_ net-_u7-pad1_ net-_u7-pad2_ net-_q6-pad1_ net-_q5-pad1_ net-_q1-pad3_ net-_u7-pad5_ net-_q3-pad1_ net-_q4-pad1_ net-_u7-pad3_ net-_u7-pad4_ net-_q2-pad1_ net-_q1-pad1_ net-_r10-pad1_ port
q2 net-_q2-pad1_ net-_q2-pad2_ net-_q1-pad3_ Ideal_npn2
r3  net-_r3-pad1_ net-_q2-pad2_ 1k
r4  net-_r10-pad1_ net-_q2-pad1_ 100
q3 net-_q3-pad1_ net-_q3-pad2_ net-_q1-pad3_ Ideal_npn2
r5  net-_r5-pad1_ net-_q3-pad2_ 1k
r6  net-_r10-pad1_ net-_q3-pad1_ 100
q4 net-_q4-pad1_ net-_q4-pad2_ net-_q1-pad3_ Ideal_npn2
r7  net-_r7-pad1_ net-_q4-pad2_ 1k
r8  net-_r10-pad1_ net-_q4-pad1_ 100
q5 net-_q5-pad1_ net-_q5-pad2_ net-_q1-pad3_ Ideal_npn2
r9  net-_r9-pad1_ net-_q5-pad2_ 1k
r10  net-_r10-pad1_ net-_q5-pad1_ 100
q6 net-_q6-pad1_ net-_q6-pad2_ net-_q1-pad3_ Ideal_npn2
r11  net-_r11-pad1_ net-_q6-pad2_ 1k
r12  net-_r10-pad1_ net-_q6-pad1_ 100
q7 net-_q7-pad1_ net-_q7-pad2_ net-_q1-pad3_ Ideal_npn2
r13  net-_r13-pad1_ net-_q7-pad2_ 1k
r14  net-_r10-pad1_ net-_q7-pad1_ 100
q8 net-_q8-pad1_ net-_q8-pad2_ net-_q1-pad3_ Ideal_npn2
r15  net-_r15-pad1_ net-_q8-pad2_ 1k
r16  net-_r10-pad1_ net-_q8-pad1_ 100
a1 net-_u3-pad1_ net-_u2-pad2_ ? net-_u1-pad2_ net-_u3-pad5_ net-_u3-pad6_ u3
a2 net-_u4-pad1_ net-_u2-pad2_ ? net-_u1-pad2_ net-_u4-pad5_ net-_u4-pad6_ u4
a3 net-_u6-pad1_ net-_u2-pad2_ ? net-_u1-pad2_ net-_u5-pad3_ net-_u5-pad4_ u6
a4 net-_u7-pad7_ net-_u2-pad2_ ? net-_u1-pad2_ net-_u5-pad1_ net-_u5-pad2_ u8
a5 net-_u1-pad1_ net-_u1-pad2_ u1
a6 net-_u2-pad1_ net-_u2-pad2_ u2
a7 [net-_u7-pad1_ net-_u7-pad2_ net-_u7-pad3_ net-_u7-pad4_ net-_u7-pad5_ net-_u7-pad6_ ] [net-_u7-pad7_ net-_u6-pad1_ net-_u4-pad1_ net-_u3-pad1_ net-_u2-pad1_ net-_u1-pad1_ ] u7
a8 [net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u3-pad5_ net-_u3-pad6_ ] [net-_r15-pad1_ net-_r13-pad1_ net-_r11-pad1_ net-_r9-pad1_ net-_r7-pad1_ net-_r5-pad1_ net-_r3-pad1_ net-_r1-pad1_ ] u5
* Schematic Name: d_dff, NgSpice Name: d_dff
.model u3 d_dff(ic=0 set_delay=1.0e-9 set_load=1.0e-12 reset_load=1.0e-12 clk_delay=1.0e-9 clk_load=1.0e-12 reset_delay=1.0 data_load=1.0e-12 fall_delay=1.0e-9 rise_delay=1.0e-9 ) 
* Schematic Name: d_dff, NgSpice Name: d_dff
.model u4 d_dff(ic=0 set_delay=1.0e-9 set_load=1.0e-12 reset_load=1.0e-12 clk_delay=1.0e-9 clk_load=1.0e-12 reset_delay=1.0 data_load=1.0e-12 fall_delay=1.0e-9 rise_delay=1.0e-9 ) 
* Schematic Name: d_dff, NgSpice Name: d_dff
.model u6 d_dff(ic=0 set_delay=1.0e-9 set_load=1.0e-12 reset_load=1.0e-12 clk_delay=1.0e-9 clk_load=1.0e-12 reset_delay=1.0 data_load=1.0e-12 fall_delay=1.0e-9 rise_delay=1.0e-9 ) 
* Schematic Name: d_dff, NgSpice Name: d_dff
.model u8 d_dff(ic=0 set_delay=1.0e-9 set_load=1.0e-12 reset_load=1.0e-12 clk_delay=1.0e-9 clk_load=1.0e-12 reset_delay=1.0 data_load=1.0e-12 fall_delay=1.0e-9 rise_delay=1.0e-9 ) 
* Schematic Name: d_buffer, NgSpice Name: d_buffer
.model u1 d_buffer(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: adc_bridge_6, NgSpice Name: adc_bridge
.model u7 adc_bridge(fall_delay=1.0e-9 in_high=2.0 rise_delay=1.0e-9 in_low=0.8 ) 
* Schematic Name: dac_bridge_8, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_undef=0.5 out_low=0.0 out_high=5.0 t_rise=1.0e-9 t_fall=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
